US09233985B2
A stirred solution of tert-butyl 2-(3-allyl-4-oxocyclopentyl)ethylcarbamate, mixture of isomers (0.50 g, 1.87 mmol) in 2,2,2-trifluoroethanol (2 mL) under nitrogen was treated with ammonium acetate (0.62 g, 8 mmol) and t-butylisonitrile (0.68 mL, 6.0 mmol) and stirred at room temperature for 3 days. The mixture was diluted with methylene chloride (20 mL) and added directly to a silica gel column (˜250 cc) and eluted with 1:1 ethyl acetate/heptane, then 2:1 ethyl acetate/heptane to afford tert-butyl 2-((1R,3S)-3-acetamido-4-allyl-3-(tert-butylcarbamoyl)cyclopentyl)ethylcarbamate (260 mg, 34%) as a white solid. NMR (CDCl3): δ 6.25 (br s, 1 H), 6.00 (br s, 1 H), 5.55-5.70 (m, 1 H), 4.90-5.00 (m, 2 H), 4.48 (m, 1 H), 3.03 (m, 2 H), 2.35-2.80 (m, 1 H), 2.27 (m, 1 H), 2.00-2.20 (m, 2 H), 1.70-2.00 (m, 2 H), 1.93 (s, 3 H), 1.45-1.65 (m, 4 H), 1.36 (s, 9 H), 1.27 (s, 9 H). MS (M+1): 410.3; MS (M+Na): 432.4.

reactant | tert-butyl 2-(3-allyl-4-oxocyclopentyl)ethylcarbamate | C(C=C)C1CC(CC1=O)CCNC(OC(C)(C)C)=O | C15H25NO3
reactant | ammonium acetate | 8 mmol, 0.62 g | C(C)(=O)[O-].[NH4+]
reactant | t-butylisonitrile | 6.0 mmol, 0.68 mL | C(C)(C)(C)[N+]#[C-] | C5H9N
reactant | 2,2,2-trifluoroethanol | 2 mL | FC(CO)(F)F | C2H3F3O
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 2-((1R,3S)-3-acetamido-4-allyl-3-(tert-butylcarbamoyl)cyclopentyl)ethylcarbamate | 260 mg, 34% | C(C)(=O)N[C@]1(C[C@H](CC1CC=C)CCNC(OC(C)(C)C)=O)C(NC(C)(C)C)=O | C22H39N3O4
